US05759443
A solution of 0.3 g of N,N'-dicyclohexyl-carbodiimide in 6 ml of dichloromethane is added dropwise at 0° C. within 15 minutes to a solution of 0.201 g of 4-(5-octyl-pyrimidin-2-yl)-benzoic acid, 0.116 g of cyclopentane-hexanol and 0.02 g of 4-dimethylaminopyridine in 10 ml of dichloromethane. The suspension is stirred at 0° C. for a further 1 hour, filtered and concentrated. The residue is chromatographed on 10 g of silica gel with hexane/ethyl acetate 19:1 (v/v). Recrystallization of the product-containing fractions from ethanol gives pure 6-cyclopentyl-hexyl 4-(5-octyl-pyrimidin-2-yl)-benzoate.

reactant | N,N'-dicyclohexyl-carbodiimide | 0.3 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 4-(5-octyl-pyrimidin-2-yl)-benzoic acid | 0.201 g | C(CCCCCCC)C=1C=NC(=NC1)C1=CC=C(C(=O)O)C=C1 | C19H24N2O2
reactant | cyclopentane-hexanol | 0.116 g | C1(CCCC1)CCCCCCO | C11H22O
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.02 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 6-cyclopentyl-hexyl 4-(5-octyl-pyrimidin-2-yl)-benzoate | C(CCCCCCC)C=1C=NC(=NC1)C1=CC=C(C(=O)OCCCCCCC2CCCC2)C=C1 | C30H44N2O2
